US06008402
Preparation of Ethyl 5-methyl-4-oxo-2,3,7,8-tetrahydro-4H-1-benzothiopyran-6-carboxylate
A mixture of ethyl-4-β-carboxyethylthio-2-methyl-1,3-cyclohexadiene-1-carboxylate (121.3 g, 0.449 mole) in toluene is stirred at 20° C., treated sequentially with 5.0 ml methanesulfonic acid and portionwise over a 5 minute period with trifluoroacetic anhydride (94.3 g, 0.449 mole) and allowed to stir at ambient temperatures for 18 hours. The resultant reaction mixture is quenched with a 1:1 mixture of ethyl acetate and water and stirred for 15 minutes. The phases are separated. The organic phase is washed with water and concentrated in vacuo to give a residue. Crystallization of the residue from isopropanol/heptane affords the title product as a yellow solid, 90.1 g, (79.5% yield), mp 99°-100° C., identified by 1HNMR and mass spectral analyses.

reactant | ethyl-4-β-carboxyethylthio-2-methyl-1,3-cyclohexadiene-1-carboxylate | 0.449 mole, 121.3 g | C(C)OC(=O)C1=C(C=C(CC1)SCCC(=O)O)C | C13H18O4S
reactant | methanesulfonic acid | 5.0 ml | CS(=O)(=O)O | CH4O3S
reactant | trifluoroacetic anhydride | 0.449 mole, 94.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-methyl-4-oxo-2,3,7,8-tetrahydro-4H-1-benzothiopyran-6-carboxylate | 79.5% yield | CC1=C(CCC2=C1C(CCS2)=O)C(=O)OCC | C13H16O3S
